* Subcircuit Ideal_OpAmp
.subckt Ideal_OpAmp /inv /non-inv /out net-_q3-pad3_ net-_q1-pad3_ 
* /home/ash98/downloads/esim-master/src/subcircuitlibrary/ideal_opamp/ideal_opamp.cir
.include 1N914.lib
.include Ideal_npn2.lib
.include Ideal_pnp2.lib
q3 net-_q2-pad1_ net-_q2-pad1_ net-_q3-pad3_ Ideal_pnp2
q5 net-_c1-pad2_ net-_q2-pad1_ net-_q3-pad3_ Ideal_pnp2
q2 net-_q2-pad1_ /inv net-_q2-pad3_ Ideal_npn2
q6 net-_c1-pad2_ /non-inv net-_q2-pad3_ Ideal_npn2
q4 net-_q2-pad3_ net-_q1-pad1_ net-_q1-pad3_ Ideal_npn2
q1 net-_q1-pad1_ net-_q1-pad1_ net-_q1-pad3_ Ideal_npn2
r1  net-_q3-pad3_ net-_q1-pad1_ 9.8k
r2  net-_q3-pad3_ net-_d1-pad1_ 5.11k
q7 net-_c1-pad1_ net-_c1-pad2_ net-_q3-pad3_ Ideal_pnp2
d1 net-_d1-pad1_ net-_d1-pad2_ 1N914
c1  net-_c1-pad1_ net-_c1-pad2_ 400p
r3  net-_d1-pad2_ net-_q1-pad3_ 20
q8 net-_c1-pad1_ net-_d1-pad1_ net-_q1-pad3_ Ideal_npn2
q9 net-_q3-pad3_ net-_c1-pad1_ /out Ideal_npn2
q10 /out net-_d1-pad1_ net-_q1-pad3_ Ideal_npn2
* Control Statements

.ends Ideal_OpAmp