* /home/ash98/esim-workspace/decimation-test/decimation-test.cir

* u2  net-_r1-pad2_ net-_u1-pad1_ adc_bridge_1
* u3  net-_u1-pad2_ out dac_bridge_1
r1  in net-_r1-pad2_ 1k
v1  in gnd pulse(0 5 0 0 0 0.025 0.050)
r2  out gnd 1k
* u1  net-_u1-pad1_ net-_u1-pad2_ decimation_filter
* u4  in plot_v1
* u5  out plot_v1
a1 [net-_r1-pad2_ ] [net-_u1-pad1_ ] u2
a2 [net-_u1-pad2_ ] [out ] u3
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
* Schematic Name: adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: decimation_filter, NgSpice Name: decimation_filter
.model u1 decimation_filter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 instance_id=1 ) 
.tran 10e-06 800e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
