* /home/ash98/esim-workspace/therm2binary/therm2binary.cir

.include lm_741.sub
* u2  ref2 plot_v1
* u3  ref3 plot_v1
* u1  ref1 plot_v1
x1 ? net-_r5-pad1_ net-_r6-pad1_ net-_x1-pad4_ ? out1 net-_x1-pad7_ ? lm_741
r5  net-_r5-pad1_ ref1 1k
x2 ? net-_r7-pad1_ net-_r8-pad1_ net-_x1-pad4_ ? out2 net-_x1-pad7_ ? lm_741
r7  net-_r7-pad1_ ref2 1k
x3 ? net-_r9-pad1_ net-_r10-pad1_ net-_x1-pad4_ ? out3 net-_x1-pad7_ ? lm_741
r9  net-_r9-pad1_ ref3 1k
r6  net-_r6-pad1_ v_in 1k
r8  net-_r8-pad1_ v_in 1k
r10  net-_r10-pad1_ v_in 1k
r11  net-_r11-pad1_ out1 1k
r12  net-_r12-pad1_ out2 1k
r13  net-_r13-pad1_ out3 1k
v3  net-_x1-pad7_ gnd 6
* u4  out1 plot_v1
* u5  out2 plot_v1
* u6  out3 plot_v1
v4  gnd net-_x1-pad4_ 6
* u7  net-_r11-pad1_ net-_r12-pad1_ net-_r13-pad1_ net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ adc_bridge_3
* u9  net-_u8-pad4_ net-_u8-pad5_ bin1 bin2 dac_bridge_2
r15  gnd bin1 1k
r14  bin2 gnd 1k
* u11  bin1 plot_v1
* u10  bin2 plot_v1
* u12  v_in plot_v1
v1  net-_r1-pad2_ gnd 4
r1  ref1 net-_r1-pad2_ 1k
r2  ref2 ref1 1k
r3  ref3 ref2 1k
r4  gnd ref3 1k
v2 v_in gnd  dc 4
* u8  net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ net-_u8-pad4_ net-_u8-pad5_ therm2bin2bit
a1 [net-_r11-pad1_ net-_r12-pad1_ net-_r13-pad1_ ] [net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ ] u7
a2 [net-_u8-pad4_ net-_u8-pad5_ ] [bin1 bin2 ] u9
a3 [net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ ] [net-_u8-pad4_ net-_u8-pad5_ ] u8
* Schematic Name: adc_bridge_3, NgSpice Name: adc_bridge
.model u7 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=1.0 ) 
* Schematic Name: dac_bridge_2, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name: therm2bin2bit, NgSpice Name: therm2bin2bit
.model u8 therm2bin2bit(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 instance_id=1 ) 
.dc v2 0e-00 4e-00 1e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(ref2)
plot v(ref3)
plot v(ref1)
plot v(out1)
plot v(out2)
plot v(out3)
plot v(bin1)
plot v(bin2)
plot v(v_in)
plot v(bin1) v(v_in) v(out1) v(out2) v(out3)
plot v(bin2) v(v_in) v(out1) v(out2) v(out3)
.endc
.end
